US04748173
Morpholinoethyl E-6-(1,3-dihydro-4-hydroxy-6-methoxy-7-methyl-3-oxo-5-isobenzofuranyl)-4-methyl-4-hexenoate (10.0 g) was dissolved in pyridine (50.0 ml) followed by the addition of 1-adamantanecarbonyl chloride (10.0 ml). The mixture was stirred at room temperature for 90 minutes, then poured into water and extracted with ethyl acetate. The organic solution was dried and evaporated to give morpholinoethyl E-6-[1,3-dihydro-4-(1-adamantoyloxy)-6-methoxy-7-methyl-3-oxo-5-isobenzofuranyl]-4-methyl-4-hexenoate.

reactant | Morpholinoethyl E-6-(1,3-dihydro-4-hydroxy-6-methoxy-7-methyl-3-oxo-5-isobenzofuranyl)-4-methyl-4-hexenoate | 10.0 g | OC1=C2C(OCC2=C(C(=C1C/C=C(/CCC(=O)OCCN1CCOCC1)\C)OC)C)=O | C23H31NO7
reactant | 1-adamantanecarbonyl chloride | 10.0 ml | C12(CC3CC(CC(C1)C3)C2)C(=O)Cl | C11H15ClO
reactant | water | O | H2O
solvent | pyridine | 50.0 ml | N1=CC=CC=C1 | C5H5N
product | morpholinoethyl E-6-[1,3-dihydro-4-(1-adamantoyloxy)-6-methoxy-7-methyl-3-oxo-5-isobenzofuranyl]-4-methyl-4-hexenoate | C12(CC3CC(CC(C1)C3)C2)C(=O)OC2=C3C(OCC3=C(C(=C2C/C=C(/CCC(=O)OCCN2CCOCC2)\C)OC)C)=O | C34H45NO8
